US08133995B2
N-{4-[6-acetyl-4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[4-(trifluoromethyl)-pyridin-2-yl]urea
Dess-Martin periodinane (342.9 mg, 0.809 mmol) was added to a stirring solution of N-{4-[4-amino-6-(1-hydroxyethyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]-triazin-5-yl]phenyl}-N′-[4-(trifluoromethyl)-pyridin-2-yl]urea (300 mg, 0.54 mmol) in DMSO (3 mL). The reaction was allowed to stir until complete by HPLC. Saturated aq. NaHCO3 solution (0.25 volumes) was added until a lot of solid had crashed out. Then 2 volumes of EtOAc and 0.5 volumes of H2O was added. This was allowed to stir overnight and the next day the excess liquid was removed via pipette. Careful addition of 5-10 mL of Et2O and 2 mL of CH2Cl2 provided an off white suspension. This was filtered to give a the title compound (100 mg, 0.18 mmol, 31% yield, 2 steps) as pure white powder. 1H-NMR (DMSO-d6). δ 10.20 (s, 1H), 10.04 (s, 1H), 8.67 (d, J=5.1 Hz, 1H), 8.20 (s, 1H), 8.10 (s, 1H), 7.78 (d, J=8.7 Hz, 2H), 7.52-7.48 (m, 3H), 4.19 (s, 2H), 3.63-3.60 (m, 4H), 2.56-2.53 (m, 4H), 2.19 (s, 3H). MS [M+H]+=555; LCMS RT=2.51 min.

reactant | Dess-Martin periodinane | 0.809 mmol, 342.9 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | N-{4-[4-amino-6-(1-hydroxyethyl)-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]-triazin-5-yl]phenyl}-N′-[4-(trifluoromethyl)-pyridin-2-yl]urea | 0.54 mmol, 300 mg | NC1=NC=NN2C1=C(C(=C2CN2CCOCC2)C(C)O)C2=CC=C(C=C2)NC(=O)NC2=NC=CC(=C2)C(F)(F)F | C26H27F3N8O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | H2O | O | H2O
product | N-{4-[6-acetyl-4-amino-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-5-yl]phenyl}-N′-[4-(trifluoromethyl)-pyridin-2-yl]urea | 0.18 mmol, 100 mg, 31% yield | C(C)(=O)C=1C(=C2C(=NC=NN2C1CN1CCOCC1)N)C1=CC=C(C=C1)NC(=O)NC1=NC=CC(=C1)C(F)(F)F | C26H25F3N8O3
